US03987082
70 Mg. of dimethyl 2-oxoheptylphosphonate in 2 ml. of tetrahydrofuran is added to 12 mg. of 48% sodium hydride in 1 ml. of tetrahydrofuran, and the mixture stirred at 0°C. under nitrogen for 30 minutes. 70 Mg. of 3-acetoxy-2-formyl-5-oxocyclopentaneheptanoic acid methyl ester, 5-cyclic ethylene ketal in 2 ml. of tetrahydrofuran is then added dropwise and the mixture allowed to warm to 20°-25°C. After 3 hours the mixture is chilled, added to cold saturated aqueous NaH2PO4, extracted with ethyl acetate, and the latter extract dried over Na2SO4 and concentrated to dryness. The residue is purified by silica gel chromatography (7.8 g. silica gel), eluting with 7% acetone in chloroform to give 3-acetoxy-2-(3-oxo-1-octenyl)-5-oxocyclopentaneheptanoic acid methyl ester, 5-cyclic ethylene acetal: ir (CHCl3) 5.78, 5.9, 6.0, 6.17, 8.00, 10.55 μ; U.V. λmaxCH3OH 228 mμ (Em 10,050).

reactant | dimethyl 2-oxoheptylphosphonate | O=C(CP(OC)(OC)=O)CCCCC | C9H19O4P
reactant | sodium hydride | [H-].[Na+]
reactant | 3-acetoxy-2-formyl-5-oxocyclopentaneheptanoic acid methyl ester | COC(CCCCCCC1C(C(CC1=O)OC(C)=O)C=O)=O | C16H24O6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-acetoxy-2-(3-oxo-1-octenyl)-5-oxocyclopentaneheptanoic acid methyl ester | COC(CCCCCCC1C(C(CC1=O)OC(C)=O)C=CC(CCCCC)=O)=O | C23H36O6
